Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hematochezia
 
Major Surgical or Invasive Procedure:
Upper Endoscopy (___)

 
History of Present Illness:
___ is a ___ with h/o duodenal ulcers and L knee
replacement who presents with BRBPR. 

Pt states he has generally been in his usual state of health.  
He
has been visiting physical therapy for the past month or so,
owing to right shoulder tendonitis.  As he was working with
physical therapy, he was recommended to take two tablets of 
Aleve
BID standing for help reducing his inflammatory pain.  He had
been taking this for ten days, up until ___, when he started to
note some nausea and general queasiness.  At this point he
stopped taking Aleve, and has taken none since.

On the morning of presentation (___), Pt had some brief chills
and sweats - as well as on episode of nonbloody diarrhea in the
morning.  He went out for lunch, was feeling otherwise well, and
then had a second episode of diarrhea - this time with frank
bright red blood.  This bloody diarrhea happened approximately 
20
minutes after eating lunch.  There was no pain associated with
eating.  Pt was somewhat concerned about this episode, and 
called
his sister - a nurse in ___ - who recommended he come to
the hospital for evaluation.  

Of note, Pt's last colonoscopy was in ___ and notable for 
7mm
sessile sigmoid polyp which was removed by hot snare with plan
for repeat ___ in ___ years. His last known Hgb was 15.2 at ___ on ___.

 
Past Medical History:
Duodenal ulcers, s/p treatment for H. pylori
L knee replacement
R shoulder tendonitis
 
Social History:
___
Family History:
 
Father who required a CABG in his late ___, mother who 
developed
___.  No early history of cancer or heart disease.
He denies a family history of colon cancer but notes that his
grandmother had part of her colon removed, but he is not
completely certain as to the reason why.
 
Physical Exam:
Admission:
V/S:  T 98.2 BP 126/83 HR 100 RR 18 O2 96% on RA
ORTHOSTATIC V/S:  Conducted manually.  100/80 sitting at edge of
bed, 105/78 while standing up.  Not symptomatic.  
ORTHOSTATIC V/S, 1 HR LATER:  Conducted manually.  115/80 
sitting
at edge of bed, 107/72 while standing up.  Not symptomatic.  
GENERAL: Pleasant ___ gentleman, sitting up in bed and
talking with his friends/daughter.  Comfortable, in no acute
distress.  
HEENT:  Sclerae anicteric, MMM.
CARDIAC: Regular rate and rhythm, normal S1/S2, no murmurs, 
rubs,
or gallops.
LUNG: CTAB.   
ABD: Hypoactive bowel sounds.  Abdomen is soft, nontender,
nondistended, without rebound tenderness or guarding.  There is
no hepatomegaly or splenomegaly  
EXT: Warm, well perfused, no lower extremity edema  
PULSES: 2+ DP pulses  
NEURO: Alert, oriented, moves all four extremities with purpose. 


Discharge:
___ ___ Temp: 98.3 PO BP: 121/66 HR: 69 RR: 20 O2 sat: 96%
O2 delivery: Ra 
GEN: Alert, in no acute distress
HEENT: Conjunctiva clear, PERRL, MMM
NECK: No JVD. 
LUNGS: CTAB
HEART: RRR, nl S1, S2. No m/r/g.
ABD: NT/ND, normal bowel sounds.
EXTREMITIES: No edema. 2+ pulses b/l. 
SKIN: No rashes.
NEURO: AOx3.  

 
Pertinent Results:
Admission:

___ 04:24PM BLOOD WBC-12.2* RBC-4.11* Hgb-12.1* Hct-35.2* 
MCV-86 MCH-29.4 MCHC-34.4 RDW-12.1 RDWSD-37.7 Plt ___
___ 04:24PM BLOOD Glucose-99 UreaN-30* Creat-0.8 Na-138 
K-4.5 Cl-101 HCO3-25 AnGap-12
___ 11:05PM BLOOD Calcium-8.2* Phos-3.4 Mg-1.9

Discharge:

___ 05:25AM BLOOD WBC-8.4 RBC-3.10* Hgb-9.1* Hct-27.1* 
MCV-87 MCH-29.4 MCHC-33.6 RDW-13.2 RDWSD-41.1 Plt ___
___ 05:25AM BLOOD Glucose-91 UreaN-6 Creat-0.6 Na-142 K-3.5 
Cl-103 HCO3-29 AnGap-10
___ 05:15AM BLOOD Calcium-7.8* Phos-3.1 Mg-2.1

Studies:
CTA ___. No evidence of active extravasation in the colon which 
corresponds with 
results of same day mesenteric arteriogram. 

Mesenteric Arteriogram ___. Right common femoral artery access. 
2. Inferior mesenteric arteriogram.  Arteriogram demonstrates no 
active 
extravasation. 
3. Zoomed in inferior mesenteric arteriogram. Arteriogram no 
active 
extravasation. 
4. Sigmoid arteriogram.  Arteriogram demonstrates no active 
extravasation. . 
5. Sigmoid arteriogram in several projections including AP, ___, 
RPO, caudal 
angulation.  None of these projections demonstrated any active 
extravasation. 
6. Inferior mesenteric arteriogram.  Arteriogram demonstrates no 
filling 
defect, no aneurysmal dilatation, no dissection, no active 
extravasation. 
 

 
Brief Hospital Course:
Mr ___ is a ___ with PMH duodenal ulcers ___ years ago), 
who presents with BRBPR. Patient was found to be acutely anemic, 
and underwent CTA to localize bleeding, which showed an area in 
the sigmoid colon suggestive of a lower GI bleed. He underwent 
___ arteriogram with plan for embolization, but the active bleed 
was not found. He then later underwent EGD and was found to have 
a duodenal ulcer on upper endoscopy, s/p endoclip. His counts 
trended upwards and he had no further episodes of bleeding.

ACUTE ISSUES: 
============= 
# GI Bleed
Patient initially presented after 10 days of NSAID use with 
bright red blood per rectum. He was found to be acutely anemic 
with Hgb that down from 15.2 on ___ (___) to nadir of 
7.9 on ___. He received a total of 4u PRBCs at ___. 
Initially underwent CTA to localize bleeding, which showed an 
area in the sigmoid colon suggestive of a lower GI bleed, later 
thought to be artifact. He underwent ___ arteriogram with plan 
for embolization, but the active bleed was not found. 
He then underwent upper endoscopy, which found duodenal ulcer 
which received endoscopic intervention. Patient was 
hemodynamically stable throughout, with blood counts improving 
daily to 9.1 on the day of discharge, and without further BRBPR. 
H pylori stool antigen was negative. He will continue PO 
pantoprazole BID as an outpatient, with GI follow up. Repeat EGD 
was scheduled for ___ to ensure healing ulcer prior to 
scheduled travel to ___ for the holidays.

CHRONIC ISSUES: 
=============== 
# Right rotator cuff tendonopathy
Continued acetaminophen ___ mg q6hr prn. He will resume 
outpatient physical therapy. Pt counseled extensively regarding 
the need to avoid all NSAIDs, and expressed understanding.

Transitional Issues: 
====================
[ ] Continue pantoprazole 40 mg BID for 2 months (Until ___, 
then can transition to 40 mg pantoprazole daily
[ ] please continue to address shoulder pain and avoidance of 
NSAIDs
[ ] please consider GI referral as an outpatient if indicated
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins W/minerals Chewable 1 TAB PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Multivitamins W/minerals Chewable 1 TAB PO DAILY  
3.Outpatient Lab Work
___-- Anemia. Labs: CBC. CONTACT: ___ 
Location: ___ 
Address: ___, ___, ___ 
Phone: ___ 
Fax: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Upper GI bleed
Peptic Ulcer
Acute blood loss anemia

Secondary:
Rotator cuff tendonopathy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,  

It was a pleasure caring of you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital because of red blood in your stool

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You had low blood counts, and required blood transfusions
- Because of your rapid bleeding, you underwent an 
interventional radiology procedure to attempt to localize and 
stop the bleeding.  They did not find the active source of 
bleeding during the procedure.
- You later underwent an upper endoscopy which found a duodenal 
ulcer with visible vessel that was intervened upon to stop any 
further potential bleeding (there was a clip placed in your 
stomach)

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  
- Let us know if you have any further red blood in your stool or 
continual black dark bowel movements
- please avoid taking all medications in the class called NSAIDS 
(including ibuprofen/motrin, naproxen/aleve, ketorolac/toradol.)
- you may take Tylenol for your pain
- please get your bloodwork checked on ___. You 
can call Dr. ___ for the results (they will be faxed to 
her). Please make sure you know the results before you go to 
___

We wish you the best!  

Sincerely, 
 
Your ___ Team
 
Followup Instructions:
___